US07375115B2
3-Oxaspiro[5.7]tridecan-2-one
To an ice-cooled solution of methyl (1-vinylcyclooctyl) acetate (1.33 g) in tetrahydofuran (6 mL) was added 0.5M 9-borabicyclo[3.3.1]nonane/tetrahydrofuran (25.3 mL) dropwise over 15 minutes. The reaction solution was then allowed for its temperature to rise to room temperature and it was stirred for additional 2 hours. The reaction solution was again ice-cooled, and ethanol (8 mL), a 6N aqueous sodium hydroxide solution (11 mL) and 30% hydrogen peroxide (11 mL) were successively to the solution. The reaction solution was allowed for its temperature to rise to room temperature and it was stirred for additional 75 minutes. The reaction solution was again ice-cooled. After addition of conc. hydrochloric acid (8 mL), the solution was stirred for additional 30 minutes. The reaction solution was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by chromatography [silica gel, hexane-ethyl acetate (9:1)] to give the title compound (0.74 g).

reactant | 9-borabicyclo[3.3.1]nonane tetrahydrofuran | 0.5M, 25.3 mL | C12CCCC(CCC1)B2.O1CCCC1
reactant | sodium hydroxide | 6N, 11 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 11 mL | OO | H2O2
reactant | hydrochloric acid | 8 mL | Cl | ClH
solvent | tetrahydofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 3-Oxaspiro[5.7]tridecan-2-one | 0.74 g | C1C(OCCC12CCCCCCC2)=O | C12H20O2
